US08017601B2
The hydrochloride salt of 6-aminonaphthalen-2-ol (3.93 g, 20.1 mmol) and K2CO3 (9.45 g, 68.5 mmol) were suspended in CH2Cl2 (38 ml) and 3-thiophenecarbonyl chloride (4.3 g, 29.3 mmol) was added. The reaction was stirred at room temperature for 17.5 hours and then quenched with water (50 ml) and filtered. The solid was washed with CH2Cl2 and then the solvent was removed in vacuo to provide the intermediate napthyl alcohol.

reactant | 6-aminonaphthalen-2-ol | 20.1 mmol, 3.93 g | NC=1C=C2C=CC(=CC2=CC1)O | C10H9NO
reactant | K2CO3 | 68.5 mmol, 9.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-thiophenecarbonyl chloride | 29.3 mmol, 4.3 g | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
solvent | CH2Cl2 | 38 ml | C(Cl)Cl | CH2Cl2
product | napthyl alcohol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
